US08466143B2
Preparation of 6-(3,4-difluoro-benzoyl)-4,4-dimethyl-1,4,5,6-tetrahydro-pyrrolo[2,3-d]azepine-2,8-dicarboxylic acid 2-ethyl ester 8-isopropyl ester
The title compound was prepared in a manner similar to that described in Example 2 by using 4,4-dimethyl-1,4,5,6-tetrahydro-pyrrolo[2,3-d]azepine-2,8-dicarboxylic acid 2-ethyl ester 8-isopropyl ester and 3,4-difluoro-benzoyl chloride. 1H-NMR(CDCl3): δ 11.11 (1H, s), 7.83 (1H, s), 7.48 (1H, m), 7.27 (1H, m), 6.87 (1H, d), 5.10 (1H, m), 4.33 (2H, q), 3.92 (2H, s), 1.37 (3H, t), 1.33 (6H, s), 1.21 (6H, d). MS (ES): 461 (MH+).

reactant | 4,4-dimethyl-1,4,5,6-tetrahydro-pyrrolo[2,3-d]azepine-2,8-dicarboxylic acid 2-ethyl ester 8-isopropyl ester | C(C)(C)OC(=O)C1=CNCC(C2=C1NC(=C2)C(=O)OCC)(C)C | C17H24N2O4
reactant | 3,4-difluoro-benzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
product | 6-(3,4-difluoro-benzoyl)-4,4-dimethyl-1,4,5,6-tetrahydro-pyrrolo[2,3-d]azepine-2,8-dicarboxylic acid 2-ethyl ester 8-isopropyl ester | C(C)(C)OC(=O)C1=CN(CC(C2=C1NC(=C2)C(=O)OCC)(C)C)C(C2=CC(=C(C=C2)F)F)=O | C24H26F2N2O5
